US07414063B2
2-benzyl-1-(3-bromo-propoxy)-benzene
By following similar procedure as described in Preparation 89, O-alkylation of 2-benzylphenol with 1,3-dibromopropane gives the title-compound as oil. EIMS: m/z 304 (M+, 79Br), 306 (M+, 81Br).

reactant | 2-benzylphenol | C(C1=CC=CC=C1)C1=C(C=CC=C1)O | C13H12O
reactant | 1,3-dibromopropane | BrCCCBr | C3H6Br2
product | 2-benzyl-1-(3-bromo-propoxy)-benzene | C(C1=CC=CC=C1)C1=C(C=CC=C1)OCCCBr | C16H17BrO
